US05374625
In an atmosphere of argon gas, 60% sodium hydride (20 mg, 0.65 mole) was added to a suspension of adenine (202.5 mg, 1.34 mmoles) in anhydrous DMF (10 ml). After stirring the mixture at room temperature for one hour, (3S,4S)-3,4-bis(benzoyloxymethyl)-7-oxabicyclo-[4.1.0]heptane (245 mg, 0.67 mmole) was added and the resulting mixture was heated in an oil bath kept at 140° C. for 3 hours. After adding 0.2M phosphate buffer (pH 7.0) to the reaction mixture and stirring the mixture for a while, the mixture was subjected to extraction with ethyl acetate. After drying the extract solution on anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride:methanol=50:1, v/v) to obtain 9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-adenine (161 mg, Yield 48%).

reactant | sodium hydride | 0.65 mole, 20 mg | [H-].[Na+]
reactant | adenine | 1.34 mmoles, 202.5 mg | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | (3S,4S)-3,4-bis(benzoyloxymethyl)-7-oxabicyclo-[4.1.0]heptane | 0.67 mmole, 245 mg | C(C1=CC=CC=C1)(=O)OC[C@H]1CC2OC2C[C@@H]1COC(C1=CC=CC=C1)=O | C22H22O5
reactant | phosphate | 0.2M, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-adenine | 161 mg, Yield 48% | C(C1=CC=CC=C1)(=O)OC[C@H]1C[C@H]([C@@H](C[C@@H]1COC(C1=CC=CC=C1)=O)N1C2=NC=NC(=C2N=C1)N)O | C27H27N5O5
